US07572921B2
[1-(3,5-Dichloro-benzyl)-1H-imidazol-2-yl]-(4-fluoro-benzyl)-amine
To a solution of [1-(3,5-dichloro-benzyl)-1H-imidazol-2-yl]-(4-fluoro-benzyl)-carbamic acid tert-butyl ester in CH2Cl2 was added trifluoroacetic acid. The reaction solution was stirred at room temperature for 3 h. When all the starting material was consumed, the mixture was diluted with CH2Cl2 and washed with water. The organic phase was dried over Na2SO4 and concentrated. The resulting residue was purified by silica gel preparative TLC using CH2Cl2:MeOH 95:5 as an eluent to afford the title compound (24 mg, 63%); LCMS m/z 350 [C17H14Cl2FN3+H]+.

reactant | [1-(3,5-dichloro-benzyl)-1H-imidazol-2-yl]-(4-fluoro-benzyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC1=CC=C(C=C1)F)C=1N(C=CN1)CC1=CC(=CC(=C1)Cl)Cl)=O | C22H22Cl2FN3O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [1-(3,5-Dichloro-benzyl)-1H-imidazol-2-yl]-(4-fluoro-benzyl)-amine | 24 mg, 63% | ClC=1C=C(CN2C(=NC=C2)NCC2=CC=C(C=C2)F)C=C(C1)Cl | C17H14Cl2FN3
